US07799822B2
Prepared using general procedure 60: To a solution of aniline (1.4 mL, 15.6 mmol) in CH2Cl2 (37 mL) under nitrogen at RT was added a solution of trimethylaluminum in hexane (2.0 M, 7.8 mL, 15.6 mmol) over 5 min. After stirring at RT for 20 min, a solution of (S)-3-(4-chloro-5-fluoroindolin-1-yl)-dihydrofuran-2(3H)-one (4.0 g, 15.6 mmol) in CH2Cl2 (37 mL) was added over 10 min. Heated to reflux for 12 h, then the reaction mixture was cooled to 0° C. and quenched by careful addition of aqueous 1M HCl (70 mL). Phases were separated, and the aqueous phase was extracted with CH2Cl2 (2×75 L). The combined organic extracts were dried over MgSO4 and concentrated. Purification via silica gel chromatography using 2-7.5% MeOH in CH2Cl2 gave (S)-2-(4-chloro-5-fluoroindolin-1-yl)-4-hydroxy-N-phenylbutanamide as a white solid (5.44 g, 100%). 1H NMR (400 MHz, DMSO-d6) δ 10.15 (s, 1H), 7.59 (d, J=7.6 Hz, 2H), 7.31-7.27 (m, 2H), 7.07-6.99 (m, 2H), 6.53 (dd, J=3.6, 8.6 Hz, 1H), 4.70 (t, J=4.9 Hz, 1H), 4.35 (t, J=7.4 Hz, 1H), 3.92-3.80 (m, 1H), 3.68-3.62 (m, 1H), 3.55-3.47 (m, 2H), 3.05-2.89 (m, 2H), 2.12-2.01 (m, 1H), 1.98-1.88 (m, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=349.1; tR=1.69 min.

reactant | aniline | 15.6 mmol, 1.4 mL | NC1=CC=CC=C1 | C6H7N
reactant | trimethylaluminum | C[Al](C)C
reactant | hexane | 15.6 mmol, 2.0 M, 7.8 mL | CCCCCC | C6H14
reactant | (S)-3-(4-chloro-5-fluoroindolin-1-yl)-dihydrofuran-2(3H)-one | 15.6 mmol, 4.0 g | ClC1=C2CCN(C2=CC=C1F)[C@@H]1C(OCC1)=O | C12H11ClFNO2
solvent | CH2Cl2 | 37 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 37 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-chloro-5-fluoroindolin-1-yl)-4-hydroxy-N-phenylbutanamide | 5.44 g, 100% | ClC1=C2CCN(C2=CC=C1F)[C@H](C(=O)NC1=CC=CC=C1)CCO | C18H18ClFN2O2
